US07220856B2
Preparation of (3S)-3-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxamide:
As described for example 213, [(3S)-1-(aminocarbonyl)hexahydro-2-oxo-1H-azepin-3-yl]-carbamic acid-1,1-dimethylethyl ester, TFA, triphosgene, NaHCO3 (sat.), and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product as a white solid. LC-MS: 460 (M++1). 1H NMR (DMSO-d6+TFA): 1.16˜1.30 (m, 1H), 1.54˜1.88 (m, 5H), 3.26 (m, 4H), 3.60 (m, 4H), 4.56 (ddd, 1H), 4.70 (br.dd, 1H), 6.32 (s, 1H), 7.38–7.46 (m, 2H), 7.62 (d, 1H), 7.88 (d, 1H), 8.20–8.50 (m, 3H).

reactant | [(3S)-1-(aminocarbonyl)hexahydro-2-oxo-1H-azepin-3-yl]-carbamic acid-1,1-dimethylethyl ester | CC(C)(C)OC(N[C@@H]1C(N(CCCC1)C(=O)N)=O)=O | C12H21N3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | (3S)-3-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-2-oxo-1H-azepine-1-carboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)C(=O)N)=O)Cl | C21H26ClN7O3
